US07790756B2
A solution of 4-amino-3-fluorophenol (0.20 g, 1.6 mmol) in 4 mL of anhydrous DMA was treated with potassium tert-butoxide (0.24 g, 1.9 mmol). The resultant dark-red solution was stirred at RT for 1 hour in a capped vial. 4-Chloro-2-methoxypyridine (0.26 g, 1.6 mmol) was added and the reaction mixture was heated overnight at 100° C. Water (50 mL) was added and the solution was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel column chromatography to obtain 2-fluoro-4-(2-methoxypyridin-4-yloxy)benzenamine (0.20 g, 58% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.02 (d, J=6.0 Hz, 1H), 6.95 (dd, J=2.8, 12.0 Hz, 1H), 6.82 (dd, J=8.4, 8.8 Hz, 1H), 6.73 (dd, J=2.0, 8.4 Hz, 1H), 6.54 (dd, J=2.4, 6.0 Hz, 1H), 6.10 (d, J=2.4 Hz, 1H), 5.17 (s, 1H), 3.81 (s, 3H); MS (ESI) m/z: 235.0 (M+H+).

reactant | 4-amino-3-fluorophenol | 1.6 mmol, 0.20 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | potassium tert-butoxide | 1.9 mmol, 0.24 g | CC(C)([O-])C.[K+]
reactant | 4-Chloro-2-methoxypyridine | 1.6 mmol, 0.26 g | ClC1=CC(=NC=C1)OC | C6H6ClNO
reactant | Water | 50 mL | O | H2O
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | 2-fluoro-4-(2-methoxypyridin-4-yloxy)benzenamine | 0.20 g, 58% yield | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)OC)N | C12H11FN2O2
